US08895596B2
Step B 3-{[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2yl]oxy}cyclobutanecarboxylic acid.
To a solution of ethyl 3-{[5-(biphenyl-4-yl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate (100 mg, 0.173 mmol) in formic acid (1.7 ml) was added a saturated aqueous solution of potassium bisulfate (0.3 ml, 0.173 mmol). The reaction mixture was heated at 80° C. for 1 h. Then the volatiles were removed in vacuo and the resulting residue was acidified with 1N aqueous HCl and extracted with EtOAc. The organic phase was separated, washed with water, and concentrated in vacuo. Purification of the resulting residue by reverse phase HPLC eluting with 30-100% MeCN:H2O afforded the title compound as a white solid. LC-MS: calculated for C24H19ClN2O3 418.11, observed m/e: 418.93 (M+H)+ (Rt 2.16/4 min). 1H NMR (500 MHz, CD3OD): δ 7.75-7.35 (m, 11H), 5.25-5.20 (m, 1H), 2.90 (m, 31-1) 2.50 (m, 2H).

reactant | ethyl 3-{[5-(biphenyl-4-yl)-6-chloro-1-{[2-(trimethylsilyl)ethoxy]-methyl}-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | 0.173 mmol, 100 mg | C1(=CC=C(C=C1)C1=CC2=C(N(C(=N2)OC2CC(C2)C(=O)OCC)COCC[Si](C)(C)C)C=C1Cl)C1=CC=CC=C1 | C32H37ClN2O4Si
reactant | potassium bisulfate | 0.173 mmol, 0.3 ml | S([O-])(O)(=O)=O.[K+]
solvent | formic acid | 1.7 ml | C(=O)O | CH2O2
product | 3-{[5-(biphenyl-4-yl)-6-chloro-1H-benzimidazol-2yl]oxy}cyclobutanecarboxylic acid | C1(=CC=C(C=C1)C1=CC2=C(NC(=N2)OC2CC(C2)C(=O)O)C=C1Cl)C1=CC=CC=C1 | C24H19ClN2O3
